US09447093B2
3-iodo-5-bromo-1H-pyrrolo[2,3-b]-pyridine (commercial product)
To a solution of 5-bromo-1H-pyrrolo[2,3-b]-pyridine (commercial product, 1 g, 5.10 mmol) in 200 ml of CH2Cl2 is added KOH (145 mg, 2.55 mmol) at room temperature. After 30 minutes, N-iodosuccinimide (1.2 g, 5.10 mmol) is added and the solution is stirred for 15 hours, neutralized with saturated Na2S2O3 solution and extracted several times with CH2Cl2. The organic phases are combined, dried on MgSO4 and concentrated under reduced pressure. The expected product is obtained with a quantitative yield and used in the following step without additional purification.

reactant | 5-bromo-1H-pyrrolo[2,3-b]-pyridine | 5.10 mmol, 1 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | KOH | 2.55 mmol, 145 mg | [OH-].[K+]
reactant | N-iodosuccinimide | 5.10 mmol, 1.2 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-iodo-5-bromo-1H-pyrrolo[2,3-b]-pyridine | quantitative yield | IC1=CNC2=NC=C(C=C21)Br | C7H4BrIN2
